US08492371B2
5-cyclopropyl-3-(tetrahydrofuran-2-ylmethyl)-1,3,4-thiadiazol-2(3H)-imine
5-cyclopropyl-1,3,4-thiadiazol-2-amine (ASD) and 2-(bromomethyl)tetrahydrofuran (Acros) were processed using the method described in Example 1C to afford the title compound.

reactant | 5-cyclopropyl-1,3,4-thiadiazol-2-amine | C1(CC1)C1=NN=C(S1)N | C5H7N3S
reactant | 2-(bromomethyl)tetrahydrofuran | BrCC1OCCC1 | C5H9BrO
product | 5-cyclopropyl-3-(tetrahydrofuran-2-ylmethyl)-1,3,4-thiadiazol-2(3H)-imine | C1(CC1)C1=NN(C(S1)=N)CC1OCCC1 | C10H15N3OS
